US07691902B2
To 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-4′-cyano-6-methylbiphenyl-3-yl)-cyclopropanecarboxamide was added ammonium chloride (0.13 g, 2.4 mmol), sodium azide (0.156 g, 2.40 mmol) and 1 mL of DMF. The mixture was heated at 110° C. in a microwave reactor for 10 minutes. After cooling, the mixture was filtered and purified by preparative HPLC to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-6-methyl-4′-(2H-tetrazol-5-yl)biphenyl-3-yl)cyclopropanecarboxamide (8.6 mg, 9%). ESI-MS m/z calc. 473.1, found 474.3 (M+1)+; retention time 1.86 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-4′-cyano-6-methylbiphenyl-3-yl)-cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC(=C(C=C2)C#N)Cl | C25H19ClN2O3
reactant | ammonium chloride | 2.4 mmol, 0.13 g | [Cl-].[NH4+]
reactant | sodium azide | 2.40 mmol, 0.156 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-6-methyl-4′-(2H-tetrazol-5-yl)biphenyl-3-yl)cyclopropanecarboxamide | 8.6 mg, 9% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC(=C(C=C2)C=2N=NNN2)Cl | C25H20ClN5O3
